US09353213B2
Trimethylolpropane triacrylate (177.8 g, 0.60 mole) and cyclopentadiene (112.0 g, 1.8 mole) were stirred at 25-40° C. for 21 hours to obtain Diels-Alder adduct of TMPTA-CPD. The obtained TMPTA-CPD (165.0 g, 0.33 mole), fumaric acid (38.3 g, 0.33 mole) and THQ (0.07 g) were heated to 190° C. in 3 hours under nitrogen and held for 12 hours to obtain a oligomeric acid with an acid number of 55 mg KOH/g, glycidyl methacrylate (28.4 g, 0.20 mole) and benzyltriethylammonium chloride (0.15 g) were heated to 110-120° C. and held for 2 hours to obtain an acrylic ester with an acid number of 22. The resulting acrylic ester was dissolved in styrene with 0.04 g of THQ to obtain a resin with 30% styrene. The resin solution has a viscosity of 430 cps, gel time 9.0 min, cure time 12.0 min, and peak exotherm 210° C.

reactant | Trimethylolpropane triacrylate | 0.60 mole, 177.8 g | C(C=C)(=O)O.C(C=C)(=O)O.C(C=C)(=O)O.C(O)C(CC)(CO)CO
reactant | cyclopentadiene | 1.8 mole, 112.0 g | C1=CC=CC1 | C5H6
product | TMPTA | CCC(COC(=O)C=C)(COC(=O)C=C)COC(=O)C=C | C15H20O6
